* Generic behavioral analog macro-models for preliminary CircuitCI design simulation.
* These models are intentionally simple and are not vendor- or bench-calibrated.

.subckt CIRCUITCI_IDEAL_OPAMP INP INN VCC VEE OUT
* Finite-gain voltage-controlled source for preliminary closed-loop topology checks.
EGAIN NRAW VEE INP INN 100000
ROUT NRAW OUT 10
RBIASP INP VEE 1G
RBIASN INN VEE 1G
COUT OUT VEE 10p
.ends CIRCUITCI_IDEAL_OPAMP

.subckt CIRCUITCI_IDEAL_COMPARATOR INP INN VCC VEE OUT
* Logistic transition avoids the convergence problems of a hard digital step.
BOUT OUT VEE V={v(VCC,VEE)/(1+exp(-1000*(v(INP)-v(INN))))}
ROUT OUT VEE 1G
.ends CIRCUITCI_IDEAL_COMPARATOR

.subckt CIRCUITCI_IDEAL_LDO_3V3 VIN EN GND VOUT
* Idealized enabled 3.3 V source with smooth enable behavior.
BOUT VOUT GND V={3.3/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOUT GND 1G
.ends CIRCUITCI_IDEAL_LDO_3V3

.subckt CIRCUITCI_TLV803EA29_RESET_SUPERVISOR VDD GND RESET
* Reduced TLV803EA29 active-low open-drain threshold behavior.
* RESET is strongly pulled low while VDD is below the nominal 2.93 V threshold
* and otherwise relies on an external pull-up resistor in the circuit. The
* logistic conductance avoids hard switching discontinuities.
BRESET RESET GND I={v(RESET,GND)*(1e-9 + 1/(1+exp(80*(v(VDD,GND)-2.93))))}
RLEAK RESET GND 1G
.ends CIRCUITCI_TLV803EA29_RESET_SUPERVISOR
